### PR TITLE
Add Erdős Problem 797 (acyclic chromatic number and maximum degree), link the formal proof

### LINKED ISSUE #6339: Erdős Problem 797
### What is the Erdős problem?

https://www.erdosproblems.com/797

Let $f(d)$ be the maximal acyclic chromatic number of any graph with maximum degree $d$ - that is, the vertices of any graph with maximum degree $d$ can be coloured with $f(d)$ colours such that there is no edge between vertices of the same colour and no cycle containing only two colours. Estimate $f(d)$. In particular is it true that $f(d)=o(d^2)$?

Status: proved (Alon–McDiarmid–Reed [AMR91]: $d^{4/3}/(\log d)^{1/3}\ll f(d)\ll d^{4/3}$). A formal proof exists in plby/lean-proofs (`Erdos797.erdos_797`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6339.

### What changed
Adds `FormalConjectures/ErdosProblems/797.lean` with `IsAcyclicColoring` (proper, no 2-coloured cycle, via Mathlib walks) and `f d` (the least palette size acyclically colouring every graph of maximum degree `≤ d`):
- `erdos_797.parts.i`: Alon–McDiarmid–Reed's `d^{4/3}/(log d)^{1/3} ≪ f(d) ≪ d^{4/3}`.
- `erdos_797.parts.ii` (`answer(True)`): `f(d) = o(d²)`.

Both linked to plby/lean-proofs `Erdos797.erdos_797` (Codex and GPT-5.6 Sol; single Mathlib-only file, ~4000 lines).
- Sorry'd variants: the greedy bound `f(d) ≤ d² + 1` and Erdős' `f(d) ≥ d^{4/3-o(1)}`.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos797.erdos_797` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (the definitions coincide; plby's cubed integer bounds `f³ ≤ 1024³ d⁴` and `d⁴ ≤ 2⁶⁷ log₂ d · f³` are converted to the real `4/3`-power form):

<details>
<summary>Bridge</summary>

```lean
open Filter Real

namespace Bridge797

lemma isAcyclicColoring_iff {V C : Type*} (G : SimpleGraph V) (c : V → C) :
    Erdos797.IsAcyclicColoring G c ↔ Erdos797Plby.IsAcyclicColoring G c := by
  unfold Erdos797.IsAcyclicColoring Erdos797Plby.IsAcyclicColoring
  exact and_congr_left fun _ => ⟨fun h u v => h u v, fun h u v => @h u v⟩

lemma f_eq (d : ℕ) : Erdos797.f d = Erdos797Plby.extremalAcyclicNumber d := by
  unfold Erdos797.f Erdos797Plby.extremalAcyclicNumber Erdos797Plby.AcyclicBound
    Erdos797Plby.graphMaxDegree
  congr 1

theorem parts_ii : type_of% Erdos797.erdos_797.parts.ii := by
  show True ↔ _
  simp only [true_iff, f_eq]
  exact Erdos797Plby.erdos_797.2.2

theorem parts_i : type_of% Erdos797.erdos_797.parts.i := by
  simp only [f_eq]
  obtain ⟨hup, hlow, -⟩ := Erdos797Plby.erdos_797
  refine ⟨(log 2) ^ (1 / 3 : ℝ) / 2 ^ (67 / 3 : ℝ), 1024, by positivity, by norm_num, ?_⟩
  filter_upwards [eventually_ge_atTop (max 2 (Erdos797Plby.LowerBound.lowerD 1))] with d hd
  have hd2 : (2 : ℕ) ≤ d := le_of_max_le_left hd
  have hdD : Erdos797Plby.LowerBound.lowerD 1 ≤ d := le_of_max_le_right hd
  have hdR : (2 : ℝ) ≤ d := by exact_mod_cast hd2
  have hd0 : (0 : ℝ) < d := by linarith
  have hlogd : 0 < log d := Real.log_pos (by linarith)
  set F : ℝ := (Erdos797Plby.extremalAcyclicNumber d : ℝ) with hF
  have hF0 : 0 ≤ F := by positivity
  -- `(d ^ (4/3)) ^ 3 = d ^ 4`
  have hcube : ((d : ℝ) ^ (4 / 3 : ℝ)) ^ 3 = (d : ℝ) ^ 4 := by
    rw [← Real.rpow_mul_natCast hd0.le]
    norm_num
  constructor
  · -- lower bound
    have h1 : (d : ℝ) ^ 4 ≤ 2 ^ 67 * (Nat.log 2 d : ℝ) * F ^ 3 := by
      have := hlow d hdD
      rw [hF]
      exact_mod_cast this
    -- `Nat.log 2 d ≤ log d / log 2`
    have hL : (Nat.log 2 d : ℝ) ≤ log d / log 2 := by
      rw [le_div_iff₀ (Real.log_pos (by norm_num))]
      have := Nat.pow_log_le_self 2 (show d ≠ 0 by omega)
      have h' : ((2 : ℝ) ^ Nat.log 2 d) ≤ d := by exact_mod_cast this
      have := Real.log_le_log (by positivity) h'
      rwa [Real.log_pow] at this
    have hlog2 : 0 < log 2 := Real.log_pos (by norm_num)
    -- cube of the target
    set c : ℝ := (log 2) ^ (1 / 3 : ℝ) / 2 ^ (67 / 3 : ℝ) with hc
    have hc0 : 0 ≤ c := by positivity
    have hc3 : c ^ 3 = log 2 / 2 ^ 67 := by
      rw [hc, div_pow, ← Real.rpow_mul_natCast hlog2.le, ← Real.rpow_mul_natCast (by norm_num)]
      norm_num
    have hpow3 : (log d ^ (1 / 3 : ℝ)) ^ 3 = log d := by
      rw [← Real.rpow_mul_natCast hlogd.le]
      norm_num
    have hlhs : (c * (d : ℝ) ^ (4 / 3 : ℝ) / log d ^ (1 / 3 : ℝ)) ^ 3 ≤ F ^ 3 := by
      rw [div_pow, mul_pow, hc3, hcube, hpow3, div_le_iff₀ hlogd]
      calc log 2 / 2 ^ 67 * (d : ℝ) ^ 4 ≤ log 2 / 2 ^ 67 * (2 ^ 67 * (Nat.log 2 d : ℝ) * F ^ 3) := by
            gcongr
        _ = (Nat.log 2 d : ℝ) * log 2 * F ^ 3 := by field_simp
        _ ≤ (log d / log 2) * log 2 * F ^ 3 := by gcongr
        _ = F ^ 3 * log d := by field_simp
    exact le_of_pow_le_pow_left₀ (by norm_num) hF0 hlhs
  · -- upper bound
    have h1 : F ^ 3 ≤ 1024 ^ 3 * (d : ℝ) ^ 4 := by
      have := hup d (by omega)
      rw [hF]
      exact_mod_cast this
    have h2 : F ^ 3 ≤ (1024 * (d : ℝ) ^ (4 / 3 : ℝ)) ^ 3 := by
      rw [mul_pow, hcube]; exact h1
    exact le_of_pow_le_pow_left₀ (by norm_num) (by positivity) h2

#print axioms Erdos797Plby.erdos_797
#print axioms parts_i
#print axioms parts_ii

end Bridge797
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«797»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/797.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+open Filter Real
+
+namespace Erdos797
+
+/-- A colouring `c` of the vertices of `G` is *acyclic* if there is no edge between vertices of
+the same colour and no cycle containing only two colours. -/
+def IsAcyclicColoring {V C : Type*} (G : SimpleGraph V) (c : V → C) : Prop :=
+  (∀ u v, G.Adj u v → c u ≠ c v) ∧
+    ∀ (v : V) (w : G.Walk v v), w.IsCycle →
+      ¬ ∃ a b : C, ∀ u ∈ w.support, c u = a ∨ c u = b
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/797.lean:42]: IsAcyclicColoring / acyclic chromatic number are standard notions absent from Mathlib and ForMathlib; suggest Coloring/ and phrasing via G.Coloring C
